US06635657B1
D. 1-Isopropylpiperidine-4-carboxaldehyde
A solution of 1-isopropylpiperidine-4-methanol (0.40 g, 2.5 mmol) and N-methylmorpholine (0.46 g, 3.8 mmol) in methylene chloride (20 mL) was treated with tetrapropylammonium perruthenate (0.089 g, 0.25 mmol). After 3 h, the mixture was concentrated and the residue purified by column chromatography (SiO2: 10% to 20% methanol:methylene chloride) affording 0.20 g (50%) of the title compound.

reactant | 1-isopropylpiperidine-4-methanol | 2.5 mmol, 0.40 g | C(C)(C)N1CCC(CC1)CO | C9H19NO
reactant | N-methylmorpholine | 3.8 mmol, 0.46 g | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 0.25 mmol, 0.089 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 1-Isopropylpiperidine-4-carboxaldehyde | 0.20 g, 50% | C(C)(C)N1CCC(CC1)C=O | C9H17NO
